US05962529
Isobutylamino-acetic acid benzyl ester
To an ice-cooled solution of benzyl bromoacetate (17.1 g, 74.6 mmol) in toluene (200 ml) was added isobutylamine (14.8 ml, 150 mmol) with stirring. The reaction mixture was allowed to warm to room temperature then heated at reflux for 1.5 h before leaving to cool to room temperature overnight. The solvent was removed under reduced pressure and the residue was dissolved in ethyl acetate and washed with brine. The organic phase was dried (anhydrous MgSO4), filtered and evaporated to an oil which was purified further by column chromatography (silica gel, 25% ethyl acetate in hexane) to give the title compound as a yellow oil (8.96 g, 54%). 1H-NMR; δ (CDCl3), 7.35 (5H, m), 5.18 (2H, s), 3.45 (2H, s), 2.41 (2H, d, J=6.8 Hz), 1.75 (2H, m) and 0.92 (6H, d, J=6.8 Hz).

reactant | benzyl bromoacetate | 74.6 mmol, 17.1 g | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | isobutylamine | 150 mmol, 14.8 ml | C(C(C)C)N | C4H11N
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | Isobutylamino-acetic acid benzyl ester | 8.96 g, 54% | C(C1=CC=CC=C1)OC(CNCC(C)C)=O | C13H19NO2
